US05457105
A mixture of 5-chloro-2-nitrobenzoic acid (13.7 g), piperidine (27 ml) and DMA (100 ml) was stirred and heated to 120° C. for 18 hours. The mixture was evaporated. The residue was dissolved in water and the solution was basified to pH10 by the addition of 2N aqueous sodium hydroxide solution. The solution was extracted with ethyl acetate. The aqueous layer was acidified to pH2 by the addition of concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer was dried (MgSO4) and evaporated to give 2-nitro-5-piperidinobenzoic acid (16.25 g), m.p.130°-140° C.

reactant | 5-chloro-2-nitrobenzoic acid | 13.7 g | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | piperidine | 27 ml | N1CCCCC1 | C5H11N
solvent | DMA | 100 ml | CC(=O)N(C)C | C4H9NO
product | 2-nitro-5-piperidinobenzoic acid | 16.25 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)N1CCCCC1 | C12H14N2O4
